US08183275B2
3-[4-(2,2-Dimethylbutyl)-1H-imidazol-2-yl]propanamide
3-[4-(2,2-dimethylbutyl)-1H-imidazol-2-yl]propanoyl chloride in methylene chloride (0.3 M) (7.8 mL, 2.3 mmol) was added to a rapidly stirred solution of concentrated aqueous ammonium hydroxide (2.5 mL) at 0° C. After stirring at rt for 1 h, the volatiles were removed to afford the title compound, which was used without further purification.

reactant | 3-[4-(2,2-dimethylbutyl)-1H-imidazol-2-yl]propanoyl chloride | CC(CC=1N=C(NC1)CCC(=O)Cl)(CC)C | C12H19ClN2O
reactant | methylene chloride | 2.3 mmol, 0.3 M, 7.8 mL | C(Cl)Cl | CH2Cl2
reactant | ammonium hydroxide | 2.5 mL | [OH-].[NH4+]
product | 3-[4-(2,2-Dimethylbutyl)-1H-imidazol-2-yl]propanamide | CC(CC=1N=C(NC1)CCC(=O)N)(CC)C | C12H21N3O
